US08624034B2
Step A) Ethyl (2R)-4-{5-fluoro-4-[4-(methylthio)phenyl]-2-oxopyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)butanoate
1,4-Dioxane (10 ml) and 3 M aq K3PO4 (1.12 mL, 3.3 mmol) was added to a flask containing [4-(methylthio)phenyl]boronic acid (0.283 g, 1.68 mmol), Pd(dppf)Cl2 (82 mg, 0.112 mmol) and ethyl (2R)-4-(5-fluoro-4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate, T2, (500 mg, 1.12 mmol) that was previously flushed with nitrogen. The mixture was heated to 60° C. and stirred at this temperature for 1 h. The reaction mixture was diluted with EtOAc and washed with water. The organics were dried (MgSO4), filtered, and concentrated. The crude product was purified via flash chromatography on a 40 g silica column and an eluent of EtOAc in n-heptane (0-100%) to afford the title compound as a gum (492 mg, 99%). MS (LCMS) m/z 442.1 (M+1). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.17-1.27 (m, 3H) 1.74 (s, 3H) 2.38-2.61 (m, 5H) 3.09 (s, 3H) 3.88-4.02 (m, 1H) 4.17-4.32 (m, 3H) 6.57 (d, J=7.61 Hz, 1H) 7.21-7.34 (m, 3H) 7.37-7.48 (m, 2H).

reactant | K3PO4 | 3.3 mmol, 3 M, 1.12 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | [4-(methylthio)phenyl]boronic acid | 1.68 mmol, 0.283 g | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
reactant | ethyl (2R)-4-(5-fluoro-4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate | FC=1C(=CC(N(C1)CC[C@](C(=O)OCC)(S(=O)(=O)C)C)=O)I | C13H17FINO5S
catalyst | Pd(dppf)Cl2 | 0.112 mmol, 82 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | 1,4-Dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | Ethyl (2R)-4-{5-fluoro-4-[4-(methylthio)phenyl]-2-oxopyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)butanoate | 492 mg, 99% | FC=1C(=CC(N(C1)CC[C@](C(=O)OCC)(S(=O)(=O)C)C)=O)C1=CC=C(C=C1)SC | C20H24FNO5S2
